US08835432B2
2-((1S)-1-(5-chloro-3-(2-(methylthio)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione
A 5 L three-necked round-bottomed flask equipped with a mechanical stirrer, a condenser, a nitrogen gas inlet and a temperature probe was charged with DMF (2.16 L), (S)-2-(1-(3,5-dichloroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione (273 g, 733 mmol) and 2-(methylthio)phenylboronic acid (136 g, 807 mmol). To the mixture, was added potassium carbonate (203 g, 147 mmol) and [1,1-bis(di-phenylphosphino)ferrocene]palladium(ii) chloride, complex with DCM (29.9 g, 36.7 mmol). The mixture was vacuum purged with N2 (2×), and heated to 100° C. The reaction was monitored by LC-MS, and deemed complete after 4 h. The reaction was cooled to rt (21° C.), and then divided into two batches. Each batch was partitioned between EtOAc (1.08 L) and water (1.35 L) in a 4 L separatory funnel After phase separation, the organic layer was washed with brine (2×500 mL) and concentrated to afford the crude product. The combined batches of crude material were loaded on silica gel and purified by flash chromatography (ISCO/RediSep™) (hexane:EtOAc=10:0 to 6:4) to provide the product as a light brown solid 320 g with 98% LC purity and 95% yield.

reactant | (S)-2-(1-(3,5-dichloroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 733 mmol, 273 g | ClC=1C(=NC2=CC=CC(=C2N1)Cl)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C18H11Cl2N3O2
reactant | 2-(methylthio)phenylboronic acid | 807 mmol, 136 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | potassium carbonate | 147 mmol, 203 g | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 36.7 mmol, 29.9 g | C(Cl)Cl | CH2Cl2
solvent | DMF | 2.16 L | CN(C)C=O | C3H7NO
product | 2-((1S)-1-(5-chloro-3-(2-(methylthio)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 320 g, 95% yield | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)SC | C25H18ClN3O2S
